US06660744B1
Cis-3-{4-[4-(aminomethyl)phenoxy]phenyl}-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.051 g, 0.0001 mol) was dissolved in anhydrous pyridine (1 mL), benzyl isocyanate (0.013 g, 0.0001 mol) was added and the resulting solution was stirred at ambient temperature for twenty hours. The solvent was removed under reduced pressure and the resulting residue purified by preparative HPLC (Hypersil C 18, 8 μm, 25 cm; 10-60% acetonitrile-0.1M ammonium acetate over 25 min, 21 mL/min) to yield cis-N-[4-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenoxy)benzyl]-N′-benzylurea acetate (0.019 g, 0.000027 mol) as a white solid.

reactant | Cis-3-{4-[4-(aminomethyl)phenoxy]phenyl}-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.0001 mol, 0.051 g | NCC1=CC=C(OC2=CC=C(C=C2)C2=NN(C3=NC=NC(=C32)N)[C@@H]3CC[C@@H](CC3)N3CCN(CC3)C)C=C1 | C29H36N8O
reactant | benzyl isocyanate | 0.0001 mol, 0.013 g | C(C1=CC=CC=C1)N=C=O | C8H7NO
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | cis-N-[4-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenoxy)benzyl]-N′-benzylurea acetate | 0.000027 mol, 0.019 g | C(C)(=O)O.NC1=C2C(=NC=N1)N(N=C2C2=CC=C(OC1=CC=C(CNC(=O)NCC3=CC=CC=C3)C=C1)C=C2)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | InChI=1S/C37H43N9O2.C2H4O2/c1-44-19-21-45(22-20-44)29-11-13-30(14-12-29)46-36-33(35(38)41-25-42-36)34(43-46)28-9-17-32(18-10-28)48-31-15-7-27(8-16-31)24-40-37(47)39-23-26-5-3-2-4-6-26;1-2(3)4/h2-10,15-18,25,29-30H,11-14,19-24H2,1H3,(H2,38,41,42)(H2,39,40,47);1H3,(H,3,4)/t29-,30+;
